US05763489
60% Sodium hydride (10.2 mg) was added to a stirred solution of benzhydryl N-[[1,2,3,4-tetrahydro-5-(methoxycarbonylmethoxy)-2-naphthyl]methyl]carbamate (117 mg) and methyl iodide (36 mg) in N,N-dimethylformamide (1.2 ml) under ice cooling and the mixture was stirred at the same temperature for 7 hours, then another 60% sodium hydride (10.2 mg) and methyl iodide (36 mg) was added thereto. The resulting mixture was stirred at room temperature for 3 days and extracted with ethyl acetate. The extract was washed twice with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was chromatographed (toluene-ethyl acetate) over silica gel to afford benzhydryl N-methyl-N-[[1,2,3,4-tetrahydro-5-(methoxycarbonylmethoxy)-2-naphthyl]methyl]carbamate (71 mg) as an oil.

reactant | Sodium hydride | 10.2 mg | [H-].[Na+]
reactant | benzhydryl N-[[1,2,3,4-tetrahydro-5-(methoxycarbonylmethoxy)-2-naphthyl]methyl]carbamate | 117 mg | COC(=O)COC1=C2CCC(CC2=CC=C1)CNC(OC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H29NO5
reactant | methyl iodide | 36 mg | CI | CH3I
reactant | sodium hydride | 10.2 mg | [H-].[Na+]
reactant | methyl iodide | 36 mg | CI | CH3I
solvent | N,N-dimethylformamide | 1.2 ml | CN(C=O)C | C3H7NO
product | benzhydryl N-methyl-N-[[1,2,3,4-tetrahydro-5-(methoxycarbonylmethoxy)-2-naphthyl]methyl]carbamate | 71 mg | CN(C(OC(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1CC2=CC=CC(=C2CC1)OCC(=O)OC | C29H31NO5
